*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-G01Y  
*  
* Parameters derived from information available in data sheet.  
* 
*                 cathode-C-1
*                 |  cathode-E-1
*                 |  |  cathode-D-1
*                 |  |  |  common-anode-1
*                 |  |  |  |  common-anode-2
*                 |  |  |  |  |  cathode-D-2
*                 |  |  |  |  |  |  cathode-E-2
*                 |  |  |  |  |  |  |  cathode-C-2
*                 |  |  |  |  |  |  |  |  cathode-G-2
*                 |  |  |  |  |  |  |  |  |  cathode-A-2
*                 |  |  |  |  |  |  |  |  |  |  cathode-F-2
*                 |  |  |  |  |  |  |  |  |  |  |  cathode-B-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  cathode-B-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-F-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-A-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-G-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_G01Y 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16

DA1 4 15 dHDSP_G01Y
DB1 4 13 dHDSP_G01Y
DC1 4  1 dHDSP_G01Y
DD1 4  3 dHDSP_G01Y
DE1 4  2 dHDSP_G01Y
DF1 4 14 dHDSP_G01Y
DG1 4 16 dHDSP_G01Y

DA2 5 10 dHDSP_G01Y
DB2 5 12 dHDSP_G01Y
DC2 5  8 dHDSP_G01Y
DD2 5  6 dHDSP_G01Y
DE2 5  7 dHDSP_G01Y
DF2 5 11 dHDSP_G01Y
DG2 5  9 dHDSP_G01Y

.MODEL dHDSP_G01Y D
+ (  
+     IS = 1.56127529E-27 
+      N = 1.25814710 
+     RS = 11.53505957 
+     BV = 4.8 
+    IBV = 100u 
+ )  

.ENDS HDSP_G01Y