*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-G03Y  
*  
* Parameters derived from information available in data sheet.  
* 
*                 anode-C-1
*                 |  anode-E-1
*                 |  |  anode-D-1
*                 |  |  |  common-cathode-1
*                 |  |  |  |  common-cathode-2
*                 |  |  |  |  |  anode-D-2
*                 |  |  |  |  |  |  anode-E-2
*                 |  |  |  |  |  |  |  anode-C-2
*                 |  |  |  |  |  |  |  |  anode-G-2
*                 |  |  |  |  |  |  |  |  |  anode-A-2
*                 |  |  |  |  |  |  |  |  |  |  anode-F-2
*                 |  |  |  |  |  |  |  |  |  |  |  anode-B-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  anode-B-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  anode-F-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  anode-A-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  anode-G-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_G03Y 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16

DA1 15  4 dHDSP_G03Y
DB1 13  4 dHDSP_G03Y
DC1  1  4 dHDSP_G03Y
DD1  3  4 dHDSP_G03Y
DE1  2  4 dHDSP_G03Y
DF1 14  4 dHDSP_G03Y
DG1 16  4 dHDSP_G03Y

DA2 10  5 dHDSP_G03Y
DB2 12  5 dHDSP_G03Y
DC2  8  5 dHDSP_G03Y
DD2  6  5 dHDSP_G03Y
DE2  7  5 dHDSP_G03Y
DF2 11  5 dHDSP_G03Y
DG2  9  5 dHDSP_G03Y

.MODEL  dHDSP_G03Y D
+ (  
+     IS = 1.56127529E-27 
+      N = 1.25814710 
+     RS = 11.53505957 
+     BV = 4.8 
+    IBV = 100u 
+ )  

.ENDS HDSP_G03Y