*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-H108  
*  
* Parameters derived from information available in data sheet.  
*  
*                 anode-c
*                 |  cathode-c,d
*                 |  |  anode-b
*                 |  |  |  cathode-a,b DP
*                 |  |  |  |  anode-DP
*                 |  |  |  |  |  anode-a
*                 |  |  |  |  |  |  cathode-a,b DP
*                 |  |  |  |  |  |  |  cathode-c,d
*                 |  |  |  |  |  |  |  |  anode-d
*                 |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_H108 1  2  3  4  5  6  7  8  9

DA1  6  4 dHDSP_H108
DB1  3  4 dHDSP_H108
DDP1 5  4 dHDSP_H108

DA2  6  7 dHDSP_H108
DB2  3  7 dHDSP_H108
DDP2 5  7 dHDSP_H108

DC1  1  2 dHDSP_H108
DD1  9  2 dHDSP_H108

DC2  1  8 dHDSP_H108
DD2  9  8 dHDSP_H108

.MODEL dHDSP_H108 D
+ (  
+    IS  = 2.08276754E-16 
+     N  = 2.17799178 
+    RS  = 0.50892350
+    BV  = 14.25
+   IBV  = 100u
+ )  

.ENDS HDSP_H108