*  
* Diode Model Produced by Altium Ltd  
* Date:  6-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-H157  
*  
* Parameters derived from information available in data sheet.  
*
*                 cathode-c
*                 |  anode-c, d
*                 |  |  cathode-b
*                 |  |  |  anode-a, b, DP
*                 |  |  |  |  cathode-DP
*                 |  |  |  |  |  cathode-a
*                 |  |  |  |  |  |  anode-a, b, DP
*                 |  |  |  |  |  |  |  anode-c, d
*                 |  |  |  |  |  |  |  |  cathode-d
*                 |  |  |  |  |  |  |  |  |  
.SUBCKT HDSP_H157 1  2  3  4  5  6  7  8  9

DA1   4  6 dHDSP_H157
DB1   4  3 dHDSP_H157
DDP1  4  5 dHDSP_H157

DA2   7  6 dHDSP_H157
DB2   7  3 dHDSP_H157
DDP2  7  5 dHDSP_H157

DC1   2  1 dHDSP_H157
DD1   2  9 dHDSP_H157

DC2   8  1 dHDSP_H157
DD2   8  9 dHDSP_H157

.MODEL dHDSP_H157 D
+ (  
+    IS = 3.25509599E-15 
+     N = 2.27697656 
+    RS = 1.58416732
+    BV = 14.25
+   IBV = 100u
+ )  

.ENDS HDSP_H157