*  
* Diode Model Produced by Altium Ltd  
* Date:  6-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-H158  
*  
* Parameters derived from information available in data sheet.  
*
*                 anode-c
*                 |  cathode-c, d
*                 |  |  anode-b
*                 |  |  |  cathode-a, b, DP
*                 |  |  |  |  anode-DP
*                 |  |  |  |  |  anode-a
*                 |  |  |  |  |  |  cathode-a, b, DP
*                 |  |  |  |  |  |  |  cathode-c, d
*                 |  |  |  |  |  |  |  |  anode-d
*                 |  |  |  |  |  |  |  |  |  
.SUBCKT HDSP_H158 1  2  3  4  5  6  7  8  9

DA1   6  4 dHDSP_H158
DB1   3  4 dHDSP_H158
DDP1  5  4 dHDSP_H158

DA2   6  7 dHDSP_H158
DB2   3  7 dHDSP_H158
DDP2  5  7 dHDSP_H158

DC1   1  2 dHDSP_H158
DD1   9  2 dHDSP_H158

DC2   1  8 dHDSP_H158
DD2   9  8 dHDSP_H158

.MODEL dHDSP_H158 D
+ (  
+    IS = 3.25509599E-15 
+     N = 2.27697656 
+    RS = 1.58416732
+    BV = 14.25
+   IBV = 100u
+ )  

.ENDS HDSP_H158