*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-K211  
*  
* Parameters derived from information available in data sheet.  
* 
*                 cathode-e-1
*                 |  cathode-d-1
*                 |  |  cathode-c-1
*                 |  |  |  cathode-DP-1
*                 |  |  |  |  cathode-e-1
*                 |  |  |  |  |  cathode-d-2
*                 |  |  |  |  |  |  cathode-g-2
*                 |  |  |  |  |  |  |  cathode-c-2
*                 |  |  |  |  |  |  |  |  cathode-DP-2
*                 |  |  |  |  |  |  |  |  |  cathode-b-2
*                 |  |  |  |  |  |  |  |  |  |  cathode-a-2
*                 |  |  |  |  |  |  |  |  |  |  |  cathode-f-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  common-anode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  common-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-b-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-a-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-g-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-f-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  | 
.SUBCKT HDSP_K211 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18

DA1  14  16  dHDSP_K211
DB1  14  15  dHDSP_K211
DC1  14   3  dHDSP_K211
DD1  14   2  dHDSP_K211
DE1  14   1  dHDSP_K211
DF1  14  18  dHDSP_K211
DG1  14  17  dHDSP_K211
DDP1 14   4  dHDSP_K211

DA2  13  11  dHDSP_K211
DB2  13  10  dHDSP_K211
DC2  13   8  dHDSP_K211
DD2  13   6  dHDSP_K211
DE2  13   5  dHDSP_K211
DF2  13  12  dHDSP_K211
DG2  13   7  dHDSP_K211
DDP2 13   9  dHDSP_K211

.MODEL dHDSP_K211 D
+ (  
+     IS = 2.92097419E-52 
+      N = 0.52799867 
+     RS = 25.27044243 
+     BV = 30
+    IBV = 100u 
+ )  

.ENDS HDSP_K211